US05866579
5-Acetamido-6-nitro-indan.
5-Amino-indan (3.00 g, 22.53 mmol) was added slowly to acetic anhydride (10 mL) cooled by an ice water bath. After 15 min., 70% HNO3 (3 mL, 46.99 mmol) was carefully added dropwise so that the temperature remained below 26° C. The mixture was allowed to slowly warm to room temperature and stirred for 2 days. It was then treated with ice water (60 mL) and extracted with EtOAc (3×20 mL). The extract was washed with water, Na2CO3 solution, dried (MgSO4), filtered and concentrated to give a dark oil (3.51 g). It was dissolved in CHCl3 and flash chromatographed over silica gel (180 g) eluting with EtOAc/hexane (1:10) to afford a yellowish orange solid (1.43 g, 29% yield): mp 100°-104° C.

reactant | 5-Amino-indan | 22.53 mmol, 3.00 g | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | HNO3 | 46.99 mmol, 3 mL | [N+](=O)(O)[O-] | HNO3
product | 5-Acetamido-6-nitro-indan | 3.51 g | C(C)(=O)NC=1C=C2CCCC2=CC1[N+](=O)[O-] | C11H12N2O3
